US04514416
To a solution of 11.6 g of 4-guanidinobenzoic acid hydrochloride in 180 ml of dried pyridine, while being cooled in ice, was added 13.2 g of DCC. After 30 minutes of stirring, 18.0 g of 4-amidino-2-benzoylphenol methanesulfonate was added, and the mixture was further stirred overnight at room temperature. A white solid substance precipitated from the reaction mixture was collected by filtration, washed with acetone, and dissolved in water. The aqueous solution was freed from the water-insoluble DCU by filtration and added to a saturated aqueous sodium bicarbonate solution, while being cooled in ice and stirred. The precipitated pale yellow crystals were collected by filtration, washed with water, then with acetone, and dried to yield 4-amidino-2-benzoylphenyl 4-guanidinobenzoate carbonate.

reactant | 4-guanidinobenzoic acid hydrochloride | 11.6 g | Cl.N(C(=N)N)C1=CC=C(C(=O)O)C=C1
reactant | DCC | 13.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-amidino-2-benzoylphenol methanesulfonate | 18.0 g | CS(=O)(=O)OC1=C(C=C(C=C1)C(N)=N)C(C1=CC=CC=C1)=O | C15H14N2O4S
solvent | pyridine | 180 ml | N1=CC=CC=C1 | C5H5N
product | 4-amidino-2-benzoylphenyl 4-guanidinobenzoate carbonate | C(O)(O)=O.N(C(=N)N)C1=CC=C(C(=O)OC2=C(C=C(C=C2)C(N)=N)C(C2=CC=CC=C2)=O)C=C1 | InChI=1S/C22H19N5O3.CH2O3/c23-20(24)15-8-11-18(17(12-15)19(28)13-4-2-1-3-5-13)30-21(29)14-6-9-16(10-7-14)27-22(25)26;2-1(3)4/h1-12H,(H3,23,24)(H4,25,26,27);(H2,2,3,4)
